Name:  ___                     Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   F
 
Service: SURGERY
 
Allergies: 
capsaicin
 
Attending: ___.
 
Chief Complaint:
Epigastric pain
 
Major Surgical or Invasive Procedure:
Endoscopic retrograde cholangiogram, pancreatic duct stent 
placement, endoscopic ultrasound

 
History of Present Illness:
Ms. ___ is a ___ s/p lap cholecystectomy 7 days ago (___)
who presents with 24 hours of worsening nausea and epigastric
pain which radiates to her back. She reports that initially her
pain had been improving post operatively and she has not 
required
narcotic medications since ___ (4 days ago). She denies
fevers, chills, vomiting, diarrhea, obstipation. 

 
Past Medical History:
Past Medical Hx:
ANEMIA                                                          
C-SECTION                                                       
HYPOTHYROIDISM                                                  
PSORIASIS                                                       
OVARIAN CYSTS                                                   
PALPITATIONS                                                    
PAROXYSMAL SUPRAVENTRICULAR TACHYCARDIA                         

Past Surgical Hx:
Lap cholecystectomy (Dr. ___ ___                       


 
Social History:
___
Family History:
Family Hx: 
Relative Status   Age Problem              Onset Comments       
Other                 CORONARY ARTERY                           
                      DISEASE   
 
Physical Exam:
___ 0824 Temp: 98.4 PO BP: 117/66 HR: 66 RR: 18 O2 sat: 98%
O2 delivery: Ra 
GEN: A&O, NAD; no jaundice 
HEENT: No scleral icterus, mucus membranes moist
CV: RRR
PULM: Breathing unlabored on room air
ABD: Soft, nontender, nondistended. no guarding or peritoneal
signs
Ext: No ___ edema, ___ warm and well perfused
 
Pertinent Results:
___ 12:39PM BLOOD WBC-5.7 RBC-4.77 Hgb-13.2 Hct-40.8 MCV-86 
MCH-27.7 MCHC-32.4 RDW-12.7 RDWSD-38.6 Plt ___
___ 05:30AM BLOOD WBC-3.8* RBC-4.33 Hgb-11.9 Hct-37.0 
MCV-86 MCH-27.5 MCHC-32.2 RDW-12.8 RDWSD-39.4 Plt ___
___ 07:00AM BLOOD WBC-4.7 RBC-4.00 Hgb-11.2 Hct-33.3* 
MCV-83 MCH-28.0 MCHC-33.6 RDW-12.1 RDWSD-36.6 Plt ___
___ 12:39PM BLOOD Glucose-94 UreaN-10 Creat-0.7 Na-137 
K-4.8 Cl-100 HCO3-25 AnGap-12
___ 05:30AM BLOOD Glucose-83 UreaN-9 Creat-0.7 Na-140 K-4.5 
Cl-106 HCO3-27 AnGap-7*
___ 07:00AM BLOOD Glucose-80 UreaN-9 Creat-0.7 Na-143 K-4.4 
Cl-107 HCO3-25 AnGap-11
___ 05:52AM BLOOD Glucose-61* UreaN-11 Creat-0.7 Na-140 
K-4.2 Cl-106 HCO3-21* AnGap-13
___ 12:39PM BLOOD ALT-747* AST-1001* AlkPhos-424* 
TotBili-2.1* DirBili-1.0* IndBili-1.1
___ 05:30AM BLOOD ALT-601* AST-415* AlkPhos-344* Amylase-54 
TotBili-0.8 DirBili-0.2 IndBili-0.6
___ 07:00AM BLOOD ALT-381* AST-160* AlkPhos-314* 
TotBili-1.1
___ 04:00PM BLOOD ALT-396* AST-139* AlkPhos-346* 
TotBili-0.9
___ 05:52AM BLOOD ALT-278* AST-82* AlkPhos-285* TotBili-0.7
___ 12:39PM BLOOD Lipase-28
___ 07:00AM BLOOD Lipase-992*
___ 04:00PM BLOOD Lipase-549*
___ 05:52AM BLOOD Lipase-809*
 
Brief Hospital Course:
Ms. ___ was admitted for further management of her presumed 
retained common bile duct stone. Her vitals were closely monitor 
and repeat labs revealed decreasing LFTs and bilirubin. She was 
kept NPO and proceeded to ERCP and endoscopic ultrasound on her 
first day of hospitalization. Her ERCP was incomplete due to 
difficulty with biliary tree cannulation. EUS revealed concern 
for retained stone fragment but was not conclusive. A PD stent 
was left in place.

The following day Ms. ___ was taken for MRCP which revealed no 
further evidence of stones. Her LFTs and bilirubin continued to 
decrease. Her diet was advanced and she tolerated this without 
issue. Her pain had completely resolved. Given her appropriate 
progress, improving LFTs and bilirubin, and imaging findings the 
decision was made to discharge the patient home with follow up 
in clinic as well as GI follow up to be scheduled for PD stent 
removal. The patient was amenable to this plan. 
 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. LORazepam 1 mg PO ASDIR flying 
2. Polyethylene Glycol 17 g PO DAILY 
3. OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - Moderate 

4. Levothyroxine Sodium 112 mcg PO DAILY 

 
Discharge Medications:
1.  Levothyroxine Sodium 112 mcg PO DAILY  
2.  LORazepam 1 mg PO ASDIR flying  
3.  OxyCODONE (Immediate Release) 5 mg PO Q6H:PRN Pain - 
Moderate  
4.  Polyethylene Glycol 17 g PO DAILY  

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Retained common bile duct stone with bile and pancreatic ductal 
obstruction.

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - Independent.

 
Discharge Instructions:
Ms. ___:

You were admitted to the hospital with concerns for a retained 
bile duct stone. You underwent an endoscopy and cholangiogram 
that did not visualize the stone. A stent was placed in your 
pancreatic duct. Further imaging revealed no retained stone. You 
have recovered well and are now ready for discharge home. Please 
follow the following instructions:

Please call your doctor or nurse practitioner or return to the 
Emergency Department for any of the following:
*You experience new chest pain, pressure, squeezing or 
tightness.
*New or worsening cough, shortness of breath, or wheeze.
*If you are vomiting and cannot keep down fluids or your 
medications.
*You are getting dehydrated due to continued vomiting, diarrhea, 
or other reasons. Signs of dehydration include dry mouth, rapid 
heartbeat, or feeling dizzy or faint when standing.
*You see blood or dark/black material when you vomit or have a 
bowel movement.
*You experience burning when you urinate, have blood in your 
urine, or experience a discharge.
*Your pain in not improving within ___ hours or is not gone 
within 24 hours. Call or return immediately if your pain is 
getting worse or changes location or moving to your chest or 
back.
*You have shaking chills, or fever greater than 101.5 degrees 
Fahrenheit or 38 degrees Celsius.
*Any change in your symptoms, or any new symptoms that concern 
you.

Please resume all regular home medications, unless specifically 
advised not to take a particular medication. Also, please take 
any new medications as prescribed.

Please get plenty of rest, continue to ambulate several times 
per day, and drink adequate amounts of fluids. Avoid lifting 
weights greater than ___ lbs until you follow-up with your 
surgeon.
Avoid driving or operating heavy machinery while taking pain 
medications.

 
Followup Instructions:
___